US08685970B2
Step 1) Preparation of 2-chloroquinolin-8-amine
A solution of 2-chloro-8-nitroquinoline (1.02 grams), iron powder (2.05 grams) and NH4Cl (2.6 grams) in 5:1 EtOH:Water (50 mL) was refluxed for 9 hours. After the reaction was complete, the solution was cooled to 60° C. and filtered through celite. The cake was washed with isopropyl alcohol followed by ethyl acetate. The filtrate was concentrated to dryness, dissolved in ethyl acetate and washed with water, dilute aqueous NaHCO3, brine and dried (Na2SO4) and concentrated to an oil. The desired product crystallized with the addition of pentane, brown solid (0.818 grams).

reactant | 2-chloro-8-nitroquinoline | 1.02 grams | ClC1=NC2=C(C=CC=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | NH4Cl | 2.6 grams | [NH4+].[Cl-]
reactant | EtOH | CCO | C2H6O
catalyst | iron | 2.05 grams | [Fe] | Fe
solvent | Water | 50 mL | O | H2O
product | 2-chloroquinolin-8-amine | ClC1=NC2=C(C=CC=C2C=C1)N | C9H7ClN2
